US08633173B2
2-Chloro-8-(1-methyl-1H-indazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine and 1-methyl-2H-indazole-4-boronic acid pinacol ester in a manner analogous to Example 2c (0.36 g, 59%). MS=284 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 1-methyl-2H-indazole-4-boronic acid pinacol ester | CN1NCC=2C(=CC=CC12)B1OC(C)(C)C(C)(C)O1 | C14H21BN2O2
product | 2-Chloro-8-(1-methyl-1H-indazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C2=C3C=NN(C3=CC=C2)C)=N1 | C14H10ClN5
